US09326987B2
N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-1-(1-methylethyl)-1H-pyrazole-5-carboxamide
To a solution of HATU (0.253 g) in DMF (3 ml) was added 1-(1-methylethyl)-1H-pyrazole-5-carboxylic acid (0.102 g) and DIPEA (0.211 ml) and the mixture was left to stand for 10 min. 6-(1H-Indol-4-yl)-1H-indazol-4-amine (0.075 g) dissolved in DMF (3 ml) was added and the solution was left to stand at RT for 18 h. DMF was removed by blow down (not to dryness) and the residue was dissolved in chloroform (1 ml) and loaded onto an aminopropyl SPE (2 g) (pre-conditioned with methanol (6 ml) and chloroform (6 ml)). The mixture was left on the column for 2 h then eluted with ethyl acetate:methanol (1:1, 10 ml). The solvent was blown down to dryness and the residue was dissolved in DMSO:methanol (1 ml, 1:1) and purified by MDAP (method K). The solvent was removed in vacuo and dried in an vacuum oven (50° C.) overnight to give title compound, 18 mg.

reactant | HATU | 0.253 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(1-methylethyl)-1H-pyrazole-5-carboxylic acid | 0.102 g | CC(C)N1N=CC=C1C(=O)O | C7H10N2O2
reactant | DIPEA | 0.211 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-(1H-Indol-4-yl)-1H-indazol-4-amine | 0.075 g | N1C=CC2=C(C=CC=C12)C=1C=C(C=2C=NNC2C1)N | C15H12N4
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-1-(1-methylethyl)-1H-pyrazole-5-carboxamide | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)NC(=O)C1=CC=NN1C(C)C | C22H20N6O
